US07825253B2
4-Fluoro-N-{2-[(5-methyl-furan-2-ylmethyl)-amino]-quinolin-5-ylmethyl}-benzamide
To a cooled (ice bath) and stirred solution of (5-aminomethyl-quinolin-2-yl)-(5-methyl-furan-2-ylmethyl)-amine (95 mg, 0.355 mmol) and triethyl amine (39.6 mg, 0.39 mmol) in THF (2 ml) was added 4-fluorobenzoyl chloride (62 mg, 0.39 mmol) and the mixture was allowed to stir at room temperature for 16 h. Evaporation and purification by flash chromatography (ethyl acetate/heptane) on silica gel yielded the title compound as off-white solid (67 mg, 48%).

reactant | (5-aminomethyl-quinolin-2-yl)-(5-methyl-furan-2-ylmethyl)-amine | 0.355 mmol, 95 mg | NCC1=C2C=CC(=NC2=CC=C1)NCC=1OC(=CC1)C | C16H17N3O
reactant | triethyl amine | 0.39 mmol, 39.6 mg | C(C)N(CC)CC | C6H15N
reactant | 4-fluorobenzoyl chloride | 0.39 mmol, 62 mg | FC1=CC=C(C(=O)Cl)C=C1 | C7H4ClFO
solvent | THF | 2 ml | C1CCOC1 | C4H8O
product | 4-Fluoro-N-{2-[(5-methyl-furan-2-ylmethyl)-amino]-quinolin-5-ylmethyl}-benzamide | 67 mg, 48% | FC1=CC=C(C(=O)NCC2=C3C=CC(=NC3=CC=C2)NCC=2OC(=CC2)C)C=C1 | C23H20FN3O2
